US07635715B2
Step D: Preparation of 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycinate
A solution of ethyl 4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-carboxylate (0.800 g, 2.61 mmol), glycine tert-butyl ester hydrochloride (0.525 g, 3.13 mmol) and DIPEA (0.910 mL, 5.22 mmol in 1,4-dioxane (25 mL) in a 75 mL sealed vessel, was stirred at 120° C. for 3 hours. Deionized water (75 mL) was added, and the resulting mixture was extracted with EtOAc (2×50 mL). The combined organic layers were then washed with brine (50 mL). The organic layer was dried over MgSO4, concentrated, and dried in vacuo to give 1.44 g crude product which was purified by flash column chromatography (silica, 0-50% DCM in hexane) to give the title compound (0.886 g). MS m/e=336 (M+H-tBu)+.

reactant | ethyl 4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-carboxylate | 2.61 mmol, 0.800 g | OC1=C(C(C(C2=CC=C(C=C12)SC)(C)C)=O)C(=O)OCC | C16H18O4S
reactant | glycine tert-butyl ester hydrochloride | 3.13 mmol, 0.525 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 75 mL | O | H2O
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-6-(methylthio)-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.886 g | OC1=C(C(C(C2=CC=C(C=C12)SC)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C20H25NO5S
